US04000192
a. 5-(N,N-Dibenzylglycyl)-2-(heptyloxy)benzamide
A mixture of potassium carbonate (3.73 g), 5-(N,N-dibenzylglycyl) salicylamide (10 g) and 1-iodo heptane (7.5 g) in butanone (200 ml) was stirred and heated under reflux for 24 hours. The solid was filtered off and the filtrate was evaporated. The residue was partitioned between ethyl acetate and water. The dried (MgSO4) ethyl acetate solution was evaporated to give a yellow oil (12.6 g) which crystallised twice from isopropanol to yield the ether (6.3 g) m.p. 97.5°-98°.

reactant | potassium carbonate | 3.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(N,N-dibenzylglycyl) salicylamide | 10 g | C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C(C(=O)N)=C1)O)CC1=CC=CC=C1 | C23H22N2O3
reactant | 1-iodo heptane | 7.5 g | ICCCCCCC | C7H15I
solvent | butanone | 200 ml | CC(CC)=O | C4H8O
product | 5-(N,N-Dibenzylglycyl)-2-(heptyloxy)benzamide | 12.6 g | C(C1=CC=CC=C1)N(CC(=O)C=1C=CC(=C(C(=O)N)C1)OCCCCCCC)CC1=CC=CC=C1 | C30H36N2O3
